US08912208B2
A. {4-[4-(5-Nitro-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester
To a solution of 2-bromo-5-nitropyridine (0.81 g, 4.0 mmol, 1.0 equiv) and {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (1.5 g, 4.0 mmol, 1.05 equiv) in 20 Ml DME was added 2 Ml saturated potassium carbonate solution followed by 50 mg Pd(PPh3)4 catalyst. The reaction was then heated to 80° C. over the weekend. Removal of volatiles in vacuo followed by silica gel chromatography (20% EtOAc in hexanes) afforded the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 0.94-1.06 (m, 1 H) 1.00 (dd, J=12.76, 2.15 Hz, 2 H) 1.30-1.42 (m,J=12.82, 12.60, 12.60, 2.91 Hz, 2 H) 1.65 (br. S., 2 H) 1.68 (d, J=3:54 Hz, 3 H) 2.11 (d, J=6.82 Hz, 2 H) 3.46 (s, 3 H) 7.27 (d, J=8.34 Hz, 2 H) 7.98 (d, J=8.34 Hz, 2 H) 8.08 (dd, J=8.84, 0.51 Hz, 1 H) 8.47 (dd, J=8.84,2.78 Hz, 1 H) 9.27 (d, J=2.27 Hz, 1 H) (M+H)+ 355.1.

reactant | 2-bromo-5-nitropyridine | 4.0 mmol, 0.81 g, 1.0 equiv | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 4.0 mmol, 1.5 g, 1.05 equiv | COC(CC1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C21H31BO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
product | {4-[4-(5-Nitro-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)[N+](=O)[O-])=O | C20H22N2O4
